US05422358
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(4-methylphenethyl)piperidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)piperidine (0.26 g), 4-methylphenethyl bromide (0.2 g), anhydrous potassium carbonate (0.3 g) and acetonitrile (10 ml) was heated under reflux for 4.5 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous sodium carbonate (30 ml), the layers separated, and the aqueous layer extracted with dichloromethane (2×30 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a colourless solid which was recrystallised from methanol to give the title compound, yield 0.13 g, m.p. 167°-169° C.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)piperidine | 0.26 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCCC1 | C19H22N2O
reactant | 4-methylphenethyl bromide | 0.2 g | CC1=CC=C(CCBr)C=C1 | C9H11Br
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(4-methylphenethyl)piperidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CCC1)CCC1=CC=C(C=C1)C | C28H32N2O
